US04686228
N-[1-(4-Benzylpiperazin-1-yl)ethylidene]-2-cyano-4,5-dimethoxyaniline (13.5 g) and zinc chloride (4.86 g) in dimethylacetamide (90 ml) were stirred under reflux for 21/2 hours; further zinc chloride (0.5, 0.2 g) was added after 1/2 and 11/2 hours respectively. The mixture was cooled, treated with ether (700 ml, 2×100 ml) and the supernatant discarded each time. The residual tar was then treated with sodium hydroxide solution (2N, 100 ml) and methylene chloride (100 ml) and the mixture was stirred at room temperature for 5 minutes. The organic layer was separated, the aqueous phase extracted with methylene chloride and the total organic extracts washed with water. The dried (Na2SO4) extracts were evaporated in vacuo and the brown residue (~13 g) purified by chromatography on silica gel (Merck 9385, 250 g) eluting with chloroform-methanol (100:0→88:12). A sample of the pure product (6.95 g) was taken up in ethanol, treated with ethereal hydrogen chloride and evaporated in vacuo. The residue was recrystallised from methanol to give 4-amino-6,7-dimethoxy-2(4-benzylpiperazin-1-yl)quinoline dihydrochloride sesquihydrate, m.p. 260°-263°.

reactant | N-[1-(4-Benzylpiperazin-1-yl)ethylidene]-2-cyano-4,5-dimethoxyaniline | 13.5 g | C(C1=CC=CC=C1)N1CCN(CC1)C(C)=NC1=C(C=C(C(=C1)OC)OC)C#N | C22H26N4O2
reactant | ether | 700 ml | CCOCC | C4H10O
reactant | sodium hydroxide | 2N, 100 ml | [OH-].[Na+]
reactant | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | dimethylacetamide | 90 ml | CC(=O)N(C)C | C4H9NO
catalyst | zinc chloride | 4.86 g | [Cl-].[Zn+2].[Cl-]
catalyst | zinc chloride | 0.2 g | [Cl-].[Zn+2].[Cl-]
product | 4-amino-6,7-dimethoxy-2(4-benzylpiperazin-1-yl)quinoline dihydrochloride sesquihydrate | O.Cl.Cl.NC1=CC(=NC2=CC(=C(C=C12)OC)OC)N1CCN(CC1)CC1=CC=CC=C1.O.O.NC1=CC(=NC2=CC(=C(C=C12)OC)OC)N1CCN(CC1)CC1=CC=CC=C1.Cl.Cl | InChI=1S/2C22H26N4O2.4ClH.3H2O/c2*1-27-20-12-17-18(23)13-22(24-19(17)14-21(20)28-2)26-10-8-25(9-11-26)15-16-6-4-3-5-7-16;;;;;;;/h2*3-7,12-14H,8-11,15H2,1-2H3,(H2,23,24);4*1H;3*1H2
